US09056885B2
8-methoxy-2,3,4,5-tetrahydro-1-ethylbenzo[b]azepine
To a solution of 8-methoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine (0.5 g) in acetonitrile (25 mL), iodoethane (0.45 mL) and K2CO3 (1.2 g) was added, and the reaction heated to reflux. After stirring for 18 hours, the heat was removed, and the reaction was concentrated. The resulting residue was partitioned between water (30 mL) and EtOAc (25 mL), the layers separated, and the organic layer washed with brine, dried (Na2SO4) and concentrated to provide the title compound (0.54 g) as a clear oil: 1H NMR (DMSO-d6) δ 6.93 (d, 1H); 6.39 (d, 1H), 6.33 (dd, 1H), 3.67 (s, 3H), 3.07 (q, 2H), 2.85-2.82 (m, 2H), 2.62-2.58 (m, 2H), 1.66-1.59 (m, 2H), 1.51-1.43 (m, 2H), 1.10 (t, 3H).

reactant | 8-methoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 0.5 g | COC=1C=CC2=C(NCCCC2)C1 | C11H15NO
reactant | K2CO3 | 1.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | iodoethane | 0.45 mL | ICC | C2H5I
product | 8-methoxy-2,3,4,5-tetrahydro-1-ethylbenzo[b]azepine | 0.54 g | COC=1C=CC2=C(N(CCCC2)CC)C1 | C13H19NO
